US04649146
A mixture of N-[2-(3,4-dimethoxyphenyl)ethyl]-4-methyl-2-tritylamino-5-thiazolecarboxamide (5.0 g) and polyphospholic acid (116% as H3PO4, 50 g) was stirred at 100° C. for 10 hours. After the reaction mixture was cooled, water (250 ml) was added and stirred for 1 hour. After removal of insoluble materials by filtration, the filtrate was neutralized with sodium carbonate. From the aqueous solution was extracted the desired compound with chloroform, and the extract was dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was triturated in diisopropyl ether to afford 1-(2-amino-4-methylthiazol-5-yl)-6,7-dimethoxy-3,4-dihydroisoquinoline (0.67 g).

reactant | N-[2-(3,4-dimethoxyphenyl)ethyl]-4-methyl-2-tritylamino-5-thiazolecarboxamide | 5.0 g | COC=1C=C(C=CC1OC)CCNC(=O)C1=C(N=C(S1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C34H33N3O3S
reactant | H3PO4 | OP(=O)(O)O | H3O4P
solvent | water | 250 ml | O | H2O
product | 1-(2-amino-4-methylthiazol-5-yl)-6,7-dimethoxy-3,4-dihydroisoquinoline | 0.67 g | NC=1SC(=C(N1)C)C1=NCCC2=CC(=C(C=C12)OC)OC | C15H17N3O2S
